### PR TITLE
feat: lemmas about BitVec.setWidth

### PR DESCRIPTION
**Pull request by kim-em**
This PR adds simp lemmas replacing `BitVec.setWidth'` with `setWidth`, and conditionally simplifying `setWidth v (setWidth w v)`.

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -755,6 +757,22 @@ theorem setWidth_one {x : BitVec w} :
...
 
+/--
+Iterated `setWidth` agrees with the second `setWidth`
+except in the case the first `setWidth` is a non-trivial truncation,
+and the second `setWidth` is a non-trivial extension.
+-/
+-- Note that in the special cases `v = u` or `v = w`,
+-- `simp` can discharge the side condition itself.
+@[simp] theorem setWidth_setWidth (x : BitVec u) (w v : Nat) (h : ¬ (v < u ∧ v < w)) :
+    setWidth w (setWidth v x) = setWidth w x := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:768]:
```suggestion
@[simp] theorem setWidth_setWidth {x : BitVec u} {w v : Nat} (h : ¬ (v < u ∧ v < w)) :
    setWidth w (setWidth v x) = setWidth w x := by
```

I assumed `x w v` should be implicit?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -685,6 +679,14 @@ theorem getMsbD_setWidth {m : Nat} {x : BitVec n} {i : Nat} :
     · simp [h']
       omega
 
+-- This is a simp lemma as there is only a runtime difference between `setWidth'` and `setWidth`,
+-- and for verification purposes they are equivalent.
+theorem setWidth'_eq {x : BitVec w} (h : w ≤ v) : x.setWidth' h = x.setWidth v := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:684]: The comment confuses me. It says `This is a simp lemma`, but `setWidth'_eq` is not tagged simp. is this intentional?

Comment (kim-em) [reply src/Init/Data/BitVec/Lemmas.lean:684]: No, it's a mistake, thanks for catching it!

Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:684]:
```suggestion
@[simp]
theorem setWidth'_eq {x : BitVec w} (h : w ≤ v) : x.setWidth' h = x.setWidth v := by
```
